US09238656B2
(1S,2S,3R,4R)-3-{6-Chloro-2-[4-chloro-2-((R)-3-hydroxy-pyrrolidin-1-yl)-thiazol-5-yl]-3H-imidazo[4,5-b]pyridin-7-ylamino}-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid dimethylamide (Compound CLXVIII)
In a similar fashion to Compound LXXXVII, 4-Chloro-2-(3-hydroxy-pyrrolidin-1-yl)-thiazole-5-carbaldehyde (180.77 mg, 0.77687 mmol), (1S,2S,3R,4R)-3-(2,3-Diamino-5-chloro-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid dimethylamide (200.00 mg, 0.62149 mmol) and Ammonium acetate (95.813 mg, 1.2430 mmol) were reacted to produce 35.95 mg (11%) of the title compound. (300 MHz, DMSO-d6) 12.70 (s, 1H), 7.95 (s, 1H), 6.66 (s, 1H), 6.42-6.34 (m, 2H), 5.76 (s, 1H), 5.13 (m, 2H), 4.44 (s, 1H), 3.54 (m, 3H), 3.03 (d, J=9 Hz, 1H), 2.95 (s, 3H), 2.86 (m, 4H), 2.83 (m, 4H), 2.11 (d, J=9 Hz, 1H), 1.96 (m, 1H), 1.42 (d, J=9 Hz, 1H). MS=533 (M+H), HPLC: 2.33 min. (G Method)

reactant | 4-Chloro-2-(3-hydroxy-pyrrolidin-1-yl)-thiazole-5-carbaldehyde | 0.77687 mmol, 180.77 mg | ClC=1N=C(SC1C=O)N1CC(CC1)O | C8H9ClN2O2S
reactant | (1S,2S,3R,4R)-3-(2,3-Diamino-5-chloro-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid dimethylamide | 0.62149 mmol, 200.00 mg | CN(C(=O)[C@H]1[C@@H]2C=C[C@H]([C@H]1NC1=C(C(=NC=C1Cl)N)N)C2)C | C15H20ClN5O
reactant | Ammonium acetate | 1.2430 mmol, 95.813 mg | C(C)(=O)[O-].[NH4+]
product | (1S,2S,3R,4R)-3-{6-Chloro-2-[4-chloro-2-((R)-3-hydroxy-pyrrolidin-1-yl)-thiazol-5-yl]-3H-imidazo[4,5-b]pyridin-7-ylamino}-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid dimethylamide | 35.95 mg, 11% | CN(C(=O)[C@H]1[C@@H]2C=C[C@H]([C@H]1NC1=C3C(=NC=C1Cl)NC(=N3)C3=C(N=C(S3)N3C[C@@H](CC3)O)Cl)C2)C | C23H25Cl2N7O2S
